US07875633B2
(1) Production of 1-ethyl-4-(4-iodophenyl)piperidine
A dichloromethane (36 mL) mixture of 1-ethyl-4-phenylpiperidine (1.37 g, 7.23 mmol), acetic acid (500 μL), silver trifluoromethanesulfonate (3.72 g), and iodine (3.67 g) was stirred overnight. Ethyl acetate was added, then the insoluble matter was removed by filtration. The obtained filtrate was washed with ammonia water, aqueous sodium thiosulfate solution and saturated saline. After dried with anhydrous magnesium sulfate, this was concentrated and purified by flash column chromatography (FPNH, hexane:ethyl acetate=1 to 9:1) to obtain a mixture of the entitled compound and 1-ethyl-4-phenylpiperidine (2.52 g).

reactant | dichloromethane | 36 mL | ClCCl | CH2Cl2
reactant | 1-ethyl-4-phenylpiperidine | 7.23 mmol, 1.37 g | C(C)N1CCC(CC1)C1=CC=CC=C1 | C13H19N
reactant | acetic acid | 500 μL | C(C)(=O)O | C2H4O2
reactant | iodine | 3.67 g | II | I2
reactant | 1-ethyl-4-phenylpiperidine | 2.52 g | C(C)N1CCC(CC1)C1=CC=CC=C1 | C13H19N
catalyst | silver trifluoromethanesulfonate | 3.72 g | FC(S(=O)(=O)[O-])(F)F.[Ag+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-ethyl-4-(4-iodophenyl)piperidine | C(C)N1CCC(CC1)C1=CC=C(C=C1)I | C13H18IN
